* source PREAMP-ECC88
V_V1         N14866 0 250Vdc
V_V2         N14657 0  AC 1V
+SIN 0V 0.5V 1kHz 0 0 0
R_R1         N14668 N14687  47k TC=0,0 
R_R2         0 N14668  1meg TC=0,0 
R_R3         0 N14691  1.21k TC=0,0 
R_R4         N14843 N14518  22.6k TC=0,0 
R_R5         0 N14705  22.6k TC=0,0 
R_R6         N14866 N14518  5.49k TC=0,0 
R_R7         0 N14726  1000k TC=0,0 
C_C1         N14705 N14726  3.3u  TC=0,0 
C_C2         N14657 N14668  3.3u  TC=0,0 
X_VL1         N14843 N14687 N14691 6DJ8
X_VL2         N14518 N14843 N14705 6DJ8
R_R9         N16186 N14726  470 TC=0,0 
R_R10         0 N16186  47k TC=0,0 
R_R8         N14687 N14843  100k TC=0,0 
